US03939166
4-Chloro-7-nitro-5-cyano-2-difluoromethylbenzimidazole is reacted with the sodium salt of allyl alcohol to obtain 4-allyloxy-7-nitro-5-cyano-2-difluoromethylbenzimidazole, m.w., 294.2.

reactant | 4-Chloro-7-nitro-5-cyano-2-difluoromethylbenzimidazole | ClC1=C(C=C(C=2N=C(NC21)C(F)F)[N+](=O)[O-])C#N | C9H3ClF2N4O2
reactant | sodium | [Na] | Na
reactant | allyl alcohol | C(C=C)O | C3H6O
product | 4-allyloxy-7-nitro-5-cyano-2-difluoromethylbenzimidazole | C(C=C)OC1=C(C=C(C=2N=C(NC21)C(F)F)[N+](=O)[O-])C#N | C12H8F2N4O3
